US03957872
6,7,8,9,10,11-Hexahydro-2-Methoxy-5-methyl-5,10-Methano- 5H-Benzocyclononen-12-One
Using a procedure analogous to that described in Example X for the preparation of 6,7,8,9,10,11-hexahydro-3-methoxy-5-methyl)- 5,10-methano-5H-benzocyclononen-12-one, there is obtained from 30.5 g. of 1-(4-chlorobutyl)-1-methyl-6-methoxy-2-tetralone 15 g. of the title product, b.p. 140° to 145° C. (0.5 mm.).

reactant | 5,10-methano-5H-benzocyclononen-12-one | C1=CC=CC2=C1C=C1C=CC=CC2C1=O | C14H10O
reactant | 1-(4-chlorobutyl)-1-methyl-6-methoxy-2-tetralone | 15 g | ClCCCCC1(C(CCC2=CC(=CC=C12)OC)=O)C | C16H21ClO2
product | 6,7,8,9,10,11-Hexahydro-2-Methoxy-5-methyl-5,10-Methano- 5H-Benzocyclononen-12-One | COC=1C=CC2=C(CC3CCCCC2(C3=O)C)C1 | C16H20O2
